US05328924
C. 3-(3-amino-1,2,5-oxadiazol-4-yl)pyridine
Crude alpha-oximino-3-pyridylacetamidoxime (5 g) and phosphorus pentachloride (5 g) was refluxed in dry ether (250 ml) for 6 h. Water and potassium carbonate to alkaline pH was added and the phases separated. The aqueous phase was extracted with ether and the combined ether phases dried. Evaporation of the ether phases gave the title compound in 850 mg yield; M+ : 162.

reactant | alpha-oximino-3-pyridylacetamidoxime | 5 g | N(O)=C(C(N)=NO)C=1C=NC=CC1 | C7H8N4O2
reactant | phosphorus pentachloride | 5 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | Water | O | H2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ether | 250 ml | CCOCC | C4H10O
product | 3-(3-amino-1,2,5-oxadiazol-4-yl)pyridine | NC1=NON=C1C=1C=NC=CC1 | C7H6N4O
